US08669234B2
A mixture of 2-(5-{4-[6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-phenyl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (216 mg, 0.382 mmol), 3-(6-Bromo-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (1 eq., 150 mg, 0.382 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (5%, 16 mg), tetrakis(triphenylphosphine)palladium (5%, 22 mg) and potassium carbonate (2 eq., 106 mg) in 4 mL DME and 1 mL water was heated to 90° C. under Argon for 5 hours. The reaction mixture was cooled and diluted in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexane) to give 3-[6-(6-{4-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-phenyl}-naphthalen-2-yl)-1H-benzoimidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (100 mg, yield 35%). LCMS-ESI−: calc'd for C46H50N6O4: 750.93. Found: 751.2 (M+H+).

reactant | 2-(5-{4-[6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-phenyl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.382 mmol, 216 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)B1OC(C(O1)(C)C)(C)C | C34H40BN3O4
reactant | 3-(6-Bromo-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.382 mmol, 150 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)Br)C2 | C18H22BrN3O2
reactant | potassium carbonate | 106 mg, 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[6-(6-{4-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-phenyl}-naphthalen-2-yl)-1H-benzoimidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 100 mg, yield 35% | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)C3=CC1=CC=C(C=C1C=C3)C3=CC=C(C=C3)C=3NC(=NC3)C3N(CCC3)C(=O)OC(C)(C)C)C2 | C46H50N6O4
